US03994900
8-[[3-(Dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl-2(1H)-quinolinone
2'-(3-Dimethylaminopropylthio)cinnamanilide, hydrochloride (30.0g) is mixed with polyphosphoric acid (700g) with stirring and heating. The temperature is allowed to reach 130°-145° C where the mixture is maintained for 15 minutes. After cooling to 60° C, the mixture is poured onto 2 liters of crushed ice and gradually treated with 1 kg. of potassium carbonate (foaming is partially controlled by addition of ethanol and ether). The basic solution is extracted with 200 ml of ether-100 ml of chloroform (3 times). The organic phases are combined, washed with 100 ml of water, dried over magnesium sulfate, filtered and the filtrate evaporated to give 24.2 g of a syrupy residue. Distillation of this material gives 17.7 g of distillate; boiling point 120°-220° C(0.1 mm of Hg). Subsequent fractionation gives 3.2 g of forerun, 2-(3-dimethylaminopropylthio)aniline, boiling point 120°-140° C(0.1 mm of Hg) and 14.0 g of pale yellow distillate; boiling point 170°-190° C(0.1 mm of Hg). This material partly solidifies and is crystallized from 5 ml of isopropanol to give 10.7 g of colorless solid, melting point 57°-80° C. After crystallization from 10 ml of acetonitrile, the material weighs 9.5 g, melting point 57°-90° C. The melting point indicates that this material is a mixture and an attempt is made to separate the mixture as a salt. A solution of 9.4 g of the base in 100 ml of chloroform is treated with 4.0 ml of 6.9 N ethanolic hydrogen chloride. The resulting yellow solution is diluted to 400 ml with ether to give a yellow amorphous product weighing 9.2 g, melting point 145°-147° C (sintering 130° C). Since this material is only partly soluble in water, a separation of this mixture is attempted by suspending 8.3 g of material in 150 ml of water. After 30 minutes, the solid is filtered, air-dried (wt. 2.3 g, melting point 104°-106° C), and the filtrate is made basic by the addition of a solution of 10 g of potassium carbonate in 20 ml of water. The liberated base is extracted with 100 ml of chloroform-200ml of ether (twice), the organic phases combined, dried over magnesium sulfate, filtered and the filtrate concentrated to give 5.0 g of the title compound, melting point 64°-66° C.

reactant | 2'-(3-Dimethylaminopropylthio)cinnamanilide, hydrochloride | 30.0g | Cl.CN(CCCSC1=C(NC(C=CC2=CC=CC=C2)=O)C=CC=C1)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 8-[[3-(Dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl-2(1H)-quinolinone | 24.2 g | CN(CCCSC=1C=CC=C2C(CC(NC12)=O)C1=CC=CC=C1)C | C20H24N2OS
